US07919628B2
To a mixture of 0.375 g of 4-fluoro-1-methoxymethoxynaphthalene-2-carboxylic acid methyl ester and 375 mg of montmorillonite K-10 clay was added 10 ml of dry dichloromethane. The mixture was stirred at room temperature for 35 minutes. The suspension was diluted with dry dichloromethane and filtered. The residue was washed with ethyl acetate and the combined filtrate concentrated to a white solid. The material was purified by flash chromatography on silica gel, eluting with ethyl acetate/heptanes to provide 0.191 g of 4-fluoro-1-hydroxynaphthalene-2-carboxylic acid, methyl ester.

reactant | 4-fluoro-1-methoxymethoxynaphthalene-2-carboxylic acid methyl ester | 0.375 g | COC(=O)C1=C(C2=CC=CC=C2C(=C1)F)OCOC | C14H13FO4
reactant | montmorillonite K-10 | 375 mg | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-fluoro-1-hydroxynaphthalene-2-carboxylic acid, methyl ester | 0.191 g | FC1=CC(=C(C2=CC=CC=C12)O)C(=O)OC | C12H9FO3
